US04463172
Diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-acetoxymethylceph-3-em-4-carboxylate 1-oxide
A solution of 13.7 g of m-chloroperbenzoic acid in 50 ml of CH2Cl2 was added to a solution of 37.3 g of diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-acetoxymethylceph-2-em-4-carboxylate in 300 ml of CH2Cl2 at -20° C., and the mixture was stirred at the same temperature for 30 minutes. The reaction solution was washed with 5% aqueous NaHCO3 and saturated aqueous NaCl solutions, and dried over MgSO4, followed by distilling off the solvent under reduced pressure. AcOEt.Et2O (1:3) was added to the residue, thus yielding 32 g (84%) of crystals of diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-acetoxymethylceph-3-em-4-carboxylate 1-oxide.

reactant | m-chloroperbenzoic acid | 13.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-acetoxymethylceph-2-em-4-carboxylate | 37.3 g | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=C(S2)C)COC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N2O6S2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | Diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-acetoxymethylceph-3-em-4-carboxylate 1-oxide | 32 g, 84% | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(C(S2=O)C)COC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N2O7S2
